* source LF_GEN
X_M3         N17266 N17574 0 IRFP460
X_TX6    N17266 N17866 N17848 0 SCHEMATIC1_TX6 
V_V7         N17606 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
X_Q6         0 N17368 N17406 awb2n3906 PARAMS:                                 
+            
R_R24         N18326 N18162  1k TC=0,0 
R_R15         N17606 N17368  1k TC=0,0 
X_TX5    N18246 0 N17568 0 SCHEMATIC1_TX5 
C_C14         N18326 N18162  22n  TC=0,0 
R_R19         N17836 N17842  2M TC=0,0 
X_Q7         N18278 N18162 N18216 awb2n3904 PARAMS:                            
+                 
R_R22         0 N17866  150k TC=0,0 
R_R23         N17266 N18076  10k TC=0,0 
C_C13         0 N17866  2.2u  TC=0,0 
R_R18         N17842 N17848  2M TC=0,0 
V_V9         N18326 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
R_R17         N17574 N17568  10 TC=0,0 
C_C12         N17866 N17914  2.2u  TC=0,0 
C_C11         0 N17468  47u  TC=0,0 
R_R20         0 N17836  10k TC=0,0 
X_Q8         0 N18162 N18216 awb2n3906 PARAMS:                                 
+            
V_V6         N17468 0 DC 15V  
X_M4         N17914 N18076 N17266 IRFP460
X_TX4    N17436 0 N18546 N17266 SCHEMATIC1_TX4 
C_C9         N17606 N17368  22n  TC=0,0 
V_V8         N18278 0 DC 15V  
V_V10         N17914 0 DC 220V  
R_R25         N18076 N18546  10 TC=0,0 
C_C16         0 N18278  47u  TC=0,0 
X_Q5         N17468 N17368 N17406 awb2n3904 PARAMS:                            
+                 
R_R16         0 N17574  10k TC=0,0 
R_R21         N17866 N17914  150k TC=0,0 
D_D7         N18076 N215871 D1N4740A 
D_D6         N17266 N215871 D1N4744A 
D_D8         0 N216631 D1N4744A 
D_D9         N17574 N216631 D1N4740A 
X_C21         N17406 N17436 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_C22         N18216 N18246 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_M6         N39386 N39548 N38764 IRFP460
C_C30         0 N39730  47u  TC=0,0 
R_R27         0 N39046  10k TC=0,0 
X_TX8    N39698 0 N39040 0 SCHEMATIC1_TX8 
V_V14         N39778 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
C_C26         0 N38944  47u  TC=0,0 
C_C28         0 N39400  2.2u  TC=0,0 
R_R31         0 N39308  10k TC=0,0 
V_V13         N39730 0 DC 15V  
V_V15         N39386 0 DC 220V  
X_TX7    N38912 0 N48125 N38764 SCHEMATIC1_TX7 
D_D13         N39046 N401561 D1N4740A 
X_TX9    N38764 N47103 N39320 0 SCHEMATIC1_TX9 
X_Q9         N38944 N38844 N38898 awb2n3904 PARAMS:                            
+                 
X_Q10         0 N38844 N38898 awb2n3906 PARAMS:                                
+             
X_Q11         N39730 N39634 N38736 awb2n3904 PARAMS:                           
+                  
R_R34         N38764 N39548  10k TC=0,0 
V_V11         N38944 0 DC 15V  
C_C29         N39778 N39634  22n  TC=0,0 
R_R30         N39308 N39314  2M TC=0,0 
R_R28         N39046 N39040  10 TC=0,0 
X_C24         N38736 N39698 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
R_R36         N39548 N48125  10 TC=0,0 
V_V12         N39078 0  
+PULSE 0V 15V 10usec 0 0 2usec 20usec
R_R35         N39778 N39634  1k TC=0,0 
C_C27         N39400 N39386  2.2u  TC=0,0 
D_D12         0 N401561 D1N4744A 
X_C23         N38898 N38912 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_M5         N38764 N39046 0 IRFP460
R_R29         N39314 N39320  2M TC=0,0 
X_Q12         0 N39634 N38736 awb2n3906 PARAMS:                                
+             
R_R26         N39078 N38844  1k TC=0,0 
C_C31         N39078 N38844  22n  TC=0,0 
R_R37         N39400 N39386  150k TC=0,0 
R_R38         0 N39400  150k TC=0,0 
C_C32         N47103 N39400  2.2u  TC=0,0 

.subckt SCHEMATIC1_TX6 1 2 3 4  
K_TX6         L1_TX6 L2_TX6 1
L1_TX6         1 2 1000uH
L2_TX6         3 4 5000uH
.ends SCHEMATIC1_TX6

.subckt SCHEMATIC1_TX5 1 2 3 4  
K_TX5         L1_TX5 L2_TX5 1
L1_TX5         1 2 1000uH
L2_TX5         3 4 2000uH
.ends SCHEMATIC1_TX5

.subckt SCHEMATIC1_TX4 1 2 3 4  
K_TX4         L1_TX4 L2_TX4 1
L1_TX4         1 2 1000uH
L2_TX4         3 4 2000uH
.ends SCHEMATIC1_TX4

.subckt SCHEMATIC1_TX8 1 2 3 4  
K_TX8         L1_TX8 L2_TX8 1
L1_TX8         1 2 1000uH
L2_TX8         3 4 1000uH
.ends SCHEMATIC1_TX8

.subckt SCHEMATIC1_TX7 1 2 3 4  
K_TX7         L1_TX7 L2_TX7 1
L1_TX7         1 2 1000uH
L2_TX7         3 4 1000uH
.ends SCHEMATIC1_TX7

.subckt SCHEMATIC1_TX9 1 2 3 4  
K_TX9         L1_TX9 L2_TX9 1
L1_TX9         1 2 1000uH
L2_TX9         3 4 1000uH
.ends SCHEMATIC1_TX9
